US05763450
1.15 g of 3-iodoaniline and 097 g of N-BOC-glycine are dissolved in 25 ml of methylene chloride and treated portionwise at 0° with 1.14 g of dicyclohexylcarbodiimide. The separated urea is filtered off and the filtrate is concentrated. Recrystallization from toluene yields tert.butyl [(3-iodo-phenyl-carbamoyl)-methyl]-carbamate as colourless crystals. Yield: 60%. M.p.=126°-128°.

reactant | 3-iodoaniline | 1.15 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | N-BOC-glycine | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | dicyclohexylcarbodiimide | 1.14 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | tert.butyl [(3-iodo-phenyl-carbamoyl)-methyl]-carbamate | Yield: 60% | IC=1C=C(C=CC1)NC(=O)CNC(OC(C)(C)C)=O | C13H17IN2O3
